* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Circuit Prototype.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 0 20
V2 N002 0 0
V3 N004 0 0
R1 N008 0 100
R2 N001 N008 200
M1 N001 N003 P001 P001 PMOS
M2 N002 N007 P002 P002 PMOS
M3 N004 N011 P003 P003 PMOS
D7 P001 N006 D
D8 P002 N006 D
D9 P003 N006 D
R8 N006 0 100000
X§U4 N005 N008 N005 0 N003 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U1 N005 N009 N005 0 N007 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U2 N005 N010 N005 0 N011 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N002 N009 200
R4 N009 0 100
R5 N010 0 100
R6 N004 N010 200
V4 N005 0 5
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 5 startup
.lib UniversalOpAmp2.lib
.backanno
.end
