* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Circuit Prototype.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 0 20
V2 N002 0 20
V3 N004 0 30
R1 N008 0 100
R2 N001 N008 200
M1 N001 N003 P001 P001 PMOS
M2 N002 N007 P002 P002 PMOS
M3 N004 NC_01 P003 P003 PMOS
D7 P001 N005 D
D8 P002 N005 D
D9 P003 N005 D
R8 N005 0 100000
X§U4 OUT N008 OUT 0 N003 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U1 OUT N011 OUT 0 N010 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U2 OUT N012 OUT 0 NC_02 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N002 N011 200
R4 N011 0 100
R5 N012 0 100
R6 N004 N012 200
C1 OUT 0 10µ
C2 N015 0 1µ
C3 N016 0 10µ Rser=10m Lser=1n
C4 N014 0 1µ
R7 N006 N013 100K
R9 OUT 0 18
X§U3 N016 OUT N014 0 N015 N015 N013 N006 ADM7150_1 Vreg=3.5 Vref=2.812
D1 N004 N006 D
D2 N002 N006 D
D3 N001 N006 D
A2 N003 0 0 0 0 N009 0 0 BUF
A4 N009 0 0 0 N010 0 N007 0 AND
A9 0 0 0 0 0 0 0 0 BUF
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 5 startup
.lib ADM7150_1.sub
.lib UniversalOpAmp2.lib
.backanno
.end
